US04556738
In an autoclave, there are charged 46 g (0.15 moles) of 3,3'-dinitro-4-chloro benzophenone, 11.2 g (0.2 moles) of calcium oxide, 1 g of 5% palladium/alumina catalyst (available from Nihon-Engelhardt Co.) and 250 ml of 1,2-dichloro ethane. With the mixture being stirred at a temperature of 30°-35° C., the reaction proceeds by the introduction of hydrogen for seven hours under a constant pressure of 10 Kg/cm2.G. After completion of the reaction, the reaction mixture is heated up to 70° C. for hot-filtering so as to remove the catalyst and the inorganic salt. On cooling, there is obtained 3,3'-diamino benzophenone as yellow needle-like crystals. The crystals are filtered, washed with 20 ml of 1,2-dichloro ethane and dried. Yield 24.8 g (78%). M.P. 149°-150° C. Recrystallization from ethanol gives yellow needle-like pure crystals of the benzophenone. M.P. 150°-151° C.

reactant | 3,3'-dinitro-4-chloro benzophenone | 0.15 moles, 46 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1Cl | C13H7ClN2O5
reactant | calcium oxide | 0.2 moles, 11.2 g | [O-2].[Ca+2]
reactant | hydrogen | [H][H] | H2
catalyst | palladium/alumina | 1 g | [Pd] | Pd
solvent | 1,2-dichloro ethane | 250 ml | ClCCCl | C2H4Cl2
product | 3,3'-diamino benzophenone | NC=1C=C(C(=O)C2=CC(=CC=C2)N)C=CC1 | C13H12N2O
